US06020345
Stage 1: 2-chloro-6-(2-trimethylsilanyl-ethoxymethoxymethyl)pyridine
3.20 ml of chloromethyl-2-(trimethylsilyl)ethyl ether (18.2 mmol) are added dropwise to a solution containing 2.50 g of (6-chloropyridin-2-yl)methanol (17.4 mmol), 3.30 ml of diisopropylethylamine (19.1 mmol) and 20 ml of dichloromethane cooled to 0° C. maintained under a nitrogen atmosphere. The mixture is stirred for 3 hours at room temperature and then the dichloromethane is evaporated off, the residue is taken up in water, the mixture is extracted with diethyl ether, the organic phase is washed with water and then dried over sodium sulfate. After filtration and evaporation of the solvent, the title product is isolated by chromatography on a silica column (eluent: dichloromethane).

reactant | chloromethyl-2-(trimethylsilyl)ethyl ether | 18.2 mmol, 3.20 ml | ClCC(COCC(CCl)[Si](C)(C)C)[Si](C)(C)C | C12H28Cl2OSi2
reactant | (6-chloropyridin-2-yl)methanol | 17.4 mmol, 2.50 g | ClC1=CC=CC(=N1)CO | C6H6ClNO
reactant | diisopropylethylamine | 19.1 mmol, 3.30 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-chloro-6-(2-trimethylsilanyl-ethoxymethoxymethyl)pyridine | Yield: 76.6% | ClC1=NC(=CC=C1)COCOCC[Si](C)(C)C | C12H20ClNO2Si
